US03982007
2-(4-chlorophenyl)-3-(5-nitro-2-thienyl)acrolein-guanylhydrazone
A solution of 0.46 g of aminoguanidine hydrogen carbonate in 5 cc of 10% hydrochloric acid is added to 1.0 g of 2-(4-chlorophenyl)-3-(5-nitro-2-thienyl)acrolein in 20 cc of methanol, and the mixture is heated to 50° for one hour. Upon cooling, the hydrochloride of the title compound is obtained as yellow crystals having a M.P. of 225°-227°.

reactant | aminoguanidine hydrogen carbonate | 0.46 g | C(O)(O)=O.NNC(=N)N
reactant | 2-(4-chlorophenyl)-3-(5-nitro-2-thienyl)acrolein | 1.0 g | ClC1=CC=C(C=C1)C(C=O)=CC=1SC(=CC1)[N+](=O)[O-] | C13H8ClNO3S
solvent | hydrochloric acid | 5 cc | Cl | ClH
solvent | methanol | 20 cc | CO | CH4O
product | 2-(4-chlorophenyl)-3-(5-nitro-2-thienyl)acrolein-guanylhydrazone | C(N)(=N)NN=CC(=CC=1SC(=CC1)[N+](=O)[O-])C1=CC=C(C=C1)Cl | C14H12ClN5O2S
